US07893269B2
Preparation of 3-(benzyloxy)-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid methylamine salt
As described previously, a 2 M methylamine solution in methanol (5.8 ml, 11.6 mmol) was added to a suspension of the 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid (1.0 g, 3.84 mmol) in methanol (3 ml) at room temperature. The resulting solution was sealed, and then heated at 70° C. for overnight. A clear yellow solution was observed. The titled compound was obtained as a light yellow solid after solvent was removed by reducing pressure (1.02 g, 87% yield). 1H NMR (DMSO-D6) δ(ppm): 7.8 (br, 2H), 7.49 (m, 2H), 7.3 (m, 3H), 6.03 (s, 1H), 4.91 (s, 2H), 3.47 (s, 3H), 2.35 (s, 3H), 2.24 (s, 3H); MS (m/z): 274 (C15H16NO4+).

reactant | methylamine | 2 M | CN | CH5N
reactant | 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid | 3.84 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C)C(=O)O | C14H12O5
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 11.6 mmol, 5.8 ml | CO | CH4O
product | 3-(benzyloxy)-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid methylamine salt | 87% yield | CN.C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C)C)C(=O)O | InChI=1S/C15H15NO4.CH5N/c1-10-8-12(17)14(13(15(18)19)16(10)2)20-9-11-6-4-3-5-7-11;1-2/h3-8H,9H2,1-2H3,(H,18,19);2H2,1H3
